US06531502B1
4-(2-carboxyethyl)-3-methyl-5-(5-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid (496 mg) suspended in ethylene glycol (2 mL) was held in a sealed tube in a pre-heated oil bath at 200° C. for 2 hours. The reaction mixture was cooled to 90° C. and potassium hydroxide (157 mg) was added. It was then stirred at 90° C. for 30 minutes. The reaction mixture was cooled, poured into water, and acidified with 2 N hydrochloric acid to pH 2. The precipitate was filtered, washed with water, and dried in a vacuum oven overnight to give 128 mg (29%) of 3-[2-(5-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid.

reactant | 4-(2-carboxyethyl)-3-methyl-5-(5-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid | 496 mg | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC=C(C=C12)C)=O)C(=O)O)C | C19H18N2O5
reactant | potassium hydroxide | 157 mg | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
product | 3-[2-(5-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid | 128 mg, 29% | CC=1C=C2C(C(NC2=CC1)=O)=CC=1NC=C(C1CCC(=O)O)C | C18H18N2O3
